US04985419
Thionyl chloride (2 cc) is added to a suspension, cooled to 5° C., of 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxylic acid hydrochloride (1.6 g) in methylene chloride (50 cc). The suspension is stirred for 3 hours at 15° C. and then concentrated to dryness at 30° C. under reduced pressure (30 mm Hg; 4 kPa) to give a yellow residue which is taken up in methylene chloride (50 cc) at 5° C. Cyclopentylmethylamine (1.1 g) is added and the mixture is stirred for 12 hours at 25° C., and saturated sodium bicarbonate solution (150 cc) is then added. The mixture is extracted with ethyl acetate (2×100 cc). The organic phase is washed successively with distilled water (100 cc) and with brine (100 cc), dried over magnesium sulphate, filtered and concentrated to dryness at 40° C. under reduced pressure (30 mm Hg; 4 kPa). The yellow solid obtained (1.6 g) is dissolved in boiling acetonitrile (30 cc) and the solution is filtered. The filtrate is primed by scratching and then cooled with stirring for 1 hour. The solid is separated off by filtration, washed with acetonitrile (2×2 cc) and dried at 40° C. under reduced pressure (1 mm Hg; 0.13 kPa). N-Cyclopentylmethyl 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide (1.3 g) is obtained in the form of white crystals, m.p. 124° C. 1 Proton NMR (250 MHz, CDCl3, δ in ppm, J in Hz)

reactant | Thionyl chloride | 2 cc | S(=O)(Cl)Cl | Cl2OS
reactant | 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxylic acid hydrochloride | 1.6 g | Cl.N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=O)O
reactant | Cyclopentylmethylamine | 1.1 g | C1(CCCC1)CN | C6H13N
reactant | sodium bicarbonate | 150 cc | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 50 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 cc | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 30 cc | C(C)#N | C2H3N
product | N-Cyclopentylmethyl 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide | 1.3 g | C1(CCCC1)CNC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C | C26H33N3OS
